US06413991B1
Ethyl-4-benzyloxyphenoxyacetate
Ethylbromoacetate (4.17 g, 25 mmol) was added to a mixture of 4-benzyloxyphenol (5.00 g, 25 mmol) and K2CO3 (3.50 g, 25 mmol) in DMF (75 mL) and stirred for 20 hours at ambient temperature. The mixture was then concentrated in vacuo and the residue partitioned between water and EtOAc. The aqueous phase was further extracted with 2×50 mL of EtOAc and the combined extracts were washed with 2×50 mL of water and dried over Na2SO4. Concentration of the organic solution in vacuo left 7.00 g (97%) of product as a white solid. m.p. 65-68° C.

reactant | Ethylbromoacetate | 25 mmol, 4.17 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | 4-benzyloxyphenol | 25 mmol, 5.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | K2CO3 | 25 mmol, 3.50 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | Ethyl-4-benzyloxyphenoxyacetate | C(C)OC(COC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C17H18O4
